US04362546
N,N-diethyl-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide (Compound No. 70)
In 50 ml of acetone is dissolved 2.8 g of N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalimide. To the solution is added 0.8 g of diethylamine under stirring at room temperature. After further stirring for 30 minutes, the solution is concentrated to dryness under reduced pressure, followed by adding 50 ml of n-hexane to cool. The resultant crystals are recovered by filtration and recrystallized from n-hexane, to yield 2.0 g of the subject compound. Melting point: 105° C.-106° C.

reactant | N-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalimide | 2.8 g | FC1=C(C=CC(=C1)Cl)N1C(C2=C(C1=O)CCCC2)=O | C14H11ClFNO2
reactant | diethylamine | 0.8 g | C(C)NCC | C4H11N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N,N-diethyl-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | 2.0 g | C(C)N(C(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O)CC | C18H22ClFN2O2
